US07288659B2
2-[(cyclohexyloxy)methyl]phenylboronic acid
31.2 ml of n-butyllithium (1.6 M) in solution in n-hexane are added dropwise at −70° C. to 13.45 g of 1-bromo-2-[(cyclohexyloxy)methyl]benzene, obtained in step 1.1, in solution in 150 ml of tetrahydrofuran. After 2 hours at −70° C., 10.2 ml of trimethyl borate are introduced dropwise and the temperature of the reaction medium is allowed to rise to −30° C. The medium is hydrolyzed with a saturated ammonium chloride solution, and then extracted with ethyl acetate and the organic phase is dried with anhydrous sodium sulfate. After evaporation, 11.7 g of a yellow oil are obtained.

reactant | n-butyllithium | 1.6 M, 31.2 ml | C(CCC)[Li]
reactant | 1-bromo-2-[(cyclohexyloxy)methyl]benzene | BrC1=C(C=CC=C1)COC1CCCCC1 | C13H17BrO
reactant | trimethyl borate | 10.2 ml | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[(cyclohexyloxy)methyl]phenylboronic acid | C1(CCCCC1)OCC1=C(C=CC=C1)B(O)O | C13H19BO3
